US07132436B2
2,4,6-Trichloro-N-[4-(3-pyridinyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 4-(3-pyridyl)-1,3-thiazol-2-amine and 2,4,6-trichlorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (29.3 mg) with purity >90%: MS (pos) m/z 422.1; HRMS m/z 418.9134 (calc. of monoisotopic mass for C14H8Cl3N3O2S2 gives 418.9123).

reactant | 4-(3-pyridyl)-1,3-thiazol-2-amine | N1=CC(=CC=C1)C=1N=C(SC1)N | C8H7N3S
reactant | 2,4,6-trichlorobenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,4,6-Trichloro-N-[4-(3-pyridinyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)NC=1SC=C(N1)C=1C=NC=CC1 | C14H8Cl3N3O2S2
